US09382238B2
To a mixture of 3-bromo-5-(trifluoromethyl)aniline (1 g, 4.17 mmol) in 1,4-dioxane (12 mL) was added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.164 g, 4.58 mmol), PdCl2(dppf) (0.305 g, 0.417 mmol) and Cs2CO3 (2.71 g, 8.33 mmol). The mixture was stirred at 100° C. for 2 h under N2. The mixture was filtered and concentrated, which was purified by silica column chromatography (PE/EA=5:1). All fractions found to contain product by TLC (PE/EA=2:1, Rf=0.8) were combined and concentrated to yield a light yellow solid of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)aniline (800 mg, 2.369 mmol, 56.9% yield): 1H NMR (400 MHz, CD3OD) δ 7.27 (s, 1H), 7.23 (s, 1H), 7.03 (s, 1H), 1.37 (s, 12H). ES-LCMS m/z 287.9 (M+H).

reactant | 3-bromo-5-(trifluoromethyl)aniline | 4.17 mmol, 1 g | BrC=1C=C(N)C=C(C1)C(F)(F)F | C7H5BrF3N
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.58 mmol, 1.164 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | Cs2CO3 | 8.33 mmol, 2.71 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.417 mmol, 0.305 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)aniline | 2.369 mmol, 800 mg, 56.9% yield | CC1(OB(OC1(C)C)C=1C=C(N)C=C(C1)C(F)(F)F)C | C13H17BF3NO2
